Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10],4.59060654809
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11]>>[H:3].[O:1]=[C:2]=[C:4]([H:5])[C:6](=[O:7])[C:8]([H:9])([H:10])[H:11],1.7430898972
[H:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19]>>[C:5]([C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19].[H:1][C:2]([H:3])[H:4],4.53613791874
[H:1][O:2][C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14]>>[C:3]([O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2],6.12115673989
[C:1]=[C:2]([C:3][O:4][H:5])[C:9]([H:10])([H:11])[H:12].[C:6]([H:7])[H:8]>>[C:1]=[C:2]([C:3]([O:4][H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-7.15870692634
[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[O:8][O:9][C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[H:7].[O:8][O:9][C:10]([H:11])([H:12])[H:13],0.309743574169
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11]>>[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],-4.1998496237300005
[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[C:5]([H:6])([H:7])[C:8]([H:9])=[C:10]([H:11])[H:12].[H:1][O:2][C:3][H:4],3.60795021882
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][O:3][C:4]([H:5])=[C:6]=[C:7]([H:8])[H:9],1.47109383568
[O:1][O:2][C:3][C:4]#[C:5][H:6]>>[C:5][H:6].[O:1][O:2][C:3]#[C:4],8.38800306903
[H:1][O:2][O:3][C@@:4]1([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[H:1][O:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],0.0440698076109
[H:1][O:2][C:3][C@@:4]1([H:5])[C:6]([H:7])([H:8])[C@:9]1([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[C:6]([H:7])([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14],1.31758986371
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]=[C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:3],4.96608510959
[H:1][C:2]([H:3])([H:4])[C:5]1[O:6][O:7][C@:8]1([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])([H:4])[C:5][C@@:8]([O:7][O:6])([H:9])[C:10]([H:11])([H:12])[H:13],2.48458455013
[H:3].[O:1]=[C:2]/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9]>>[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[O:8][H:9],-4.10517212301
[C:7][C:8]([H:9])([H:10])[H:11].[H:1][C:2]([H:3])[O:4][C:5][H:6]>>[H:1][C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7]/[C:8]([H:9])([H:10])[H:11],-5.81472838219
[O:1][C:2]([H:3])([H:4])/[C:5]=[C:6](\[H:7])[O:8][H:9]>>[H:7].[O:1][C:2]([H:3])([H:4])[C:5]#[C:6][O:8][H:9],2.07599069889
[C:3]=[C:4]([H:5])[C:6]([H:7])[O:8][C:9]([H:10])([H:11])[H:12].[H:1][C:2]>>[H:1][C:2]#[C:3]/[C:4]([H:5])=[C:6](\[H:7])[O:8][C:9]([H:10])([H:11])[H:12],-10.0049635131
[C:5]([H:6])([H:7])=[C:8][O:9][H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8][O:9][H:10],-0.590443912839
[C:8](=[C:9]([H:10])[H:11])=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([C:9]([H:10])[H:11])=[C:12]([H:13])[H:14],0.702106229512
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1]>>[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-4.24253974079
[H:1][C:2]=[C:3]([H:4])/[C:5]([H:6])=[C:7](\[O:8][H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])[C:7](=[O:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.1342710296
[C:2](#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12].[O:1]>>[O:1]=[C:2]([C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10])[O:11][H:12],-3.88595439441
[H:1][C:2]([H:3])([C:4]#[C:7][C:8]([H:9])([H:10])[H:11])[H:15].[H:5][C:6]=[C:12]([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4]([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.73129559729
[H:1][C:2]#[C:3][C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]1[H:11]>>[H:1][C:2]#[C:3][C:4]([C:5]([H:6])([H:7])[H:8])[C:10](=[O:9])[H:11],-1.98441737897
[C:1]=[C:2]([H:3])[H:4].[C:5](=[O:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1][C:2]([H:3])([H:4])[C:5](=[O:6])[C:7]([H:8])([H:9])[O:10][H:11],-0.8114728707109999
[C:4]([H:5])([H:6])[H:7].[O:1]=[C:2]([H:3])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15]>>[O:1][C@@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-0.68369604979
[H:12].[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8]=[C:9]([H:10])[H:11]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([H:7])[C:8][C:9]([H:10])([H:11])[H:12],-1.87843102874
